US06054457
To a solution of 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-oxopiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide (192 mg) in methanol (5 ml) was added sodium borohydride (19 mg) at ambient temperature and the mixture was stirred at the same temperate for 1 hour. The reaction was quenched with 0.5N hydrochloric acid (10 ml) and the mixture was extracted with chloroform (15 ml×3). The organic layer was washed with aqueous sodium hydrogen carbonate and brine, and the solution was dried over magnesium sulfate. The solvent was evaporated in vacuo to give 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-hydroxypiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide (199 mg).

reactant | 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-oxopiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide | 192 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCC(CC3)=O)C)C=C2)OC)C=CC=C1 | C42H54N4O9
reactant | sodium borohydride | 19 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-hydroxypiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide | 199 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCC(CC3)O)C)C=C2)OC)C=CC=C1 | C42H56N4O9
